US07612114B2
3-Methoxy-7-(4-methoxyphenyl)-5,6-dihydronaphthalen-1-ol
Synthesized from 6,8-dimethoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one according to an analogous synthetic method to Preparation Example 192 described below, a solution of 8-hydroxy-6-methoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one (6.2 g) in tetrahydrofuran (130 ml) was added dropwise to a suspension of lithium borohydride (1.1 g) in tetrahydrofuran (60 ml) on an ice bath, and the solution was stirred for 20 minutes at room temperature. To the reaction solution was added 2N hydrochloric acid on the ice bath, the solution was stirred, extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-tetrahydrofuran system) to provide the title compound (5.6 g).

reactant | 6,8-dimethoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one | COC=1C=C2CCC(C(C2=C(C1)OC)=O)C1=CC=C(C=C1)OC | C19H20O4
reactant | 8-hydroxy-6-methoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one | 6.2 g | OC=1C=C(C=C2CCC(C(C12)=O)C1=CC=C(C=C1)OC)OC | C18H18O4
reactant | lithium borohydride | 1.1 g | [BH4-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-Methoxy-7-(4-methoxyphenyl)-5,6-dihydronaphthalen-1-ol | 5.6 g | COC=1C=C(C=2C=C(CCC2C1)C1=CC=C(C=C1)OC)O | C18H18O3
